US07902252B2
2.87. Synthesis of 4-(3,4-dimethoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (69)
The title compound was synthesized from methyl 4-(3,4-dimethoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.050 g, 0.16 mmol) and lithium hydroxide (0.067 g, 1.6 mmol in 3 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (6 mL) was used. The resulting product was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-100% EtOAc/heptane) to afford the title compound: 11 mg, 23% yield. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.06-2.18 (m, 1H), 2.50-2.68 (m, 3H), 2.68-2.81 (m, 2H), 3.20-3.35 (m, 1H), 3.77 (s, 3H), 3.81 (s, 3H), 6.35 (s, 1H), 6.72 (m, 2H), 6.86 (d, J=8.0 Hz, 1H); LCMS-MS (ESI−) 300.0 (M−H); HPLC (UV=96%), (ELSD=100%).

reactant | methyl 4-(3,4-dimethoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.16 mmol, 0.050 g | COC=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC1OC | C18H21NO4
reactant | lithium hydroxide | 1.6 mmol, 3 mL, 0.067 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-(3,4-dimethoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | COC=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=CC1OC | C17H19NO4
